US06174503B1
Synthesis of 1-(1,1,2,2-tetrafluoroethoxy)-3-(4tert-octylphenoxy)-2-propanol. (Modifer E) using Method One (FIG. 5).
A 250 mL 2-neck flask was charged with 20.6 g (0.10 mol) of 4-tert-octylphenol obtained from Aldrich Chemical Co., a catalytic amount of dry, ground potassium carbonate obtained from EM Science, Inc. (1.38 g, 0.010 mol), a stir bar, and 95% ethanol (75 mL) under argon. The side arm was then stoppered with a rubber septum, and a condenser with an argon inlet was attached to the center neck. The system was evacuated and backflushed with argon three times. Stirring was commenced to dissolve the phenol, then glycidyl 1,1,2,2-tetrafluoroethyl ether (27.0 mL, 19.15 g, 0.11 mol) obtained from Aldrich Chemical Co., was added through the septum in two portions using a 20 mL glass syringe. The reaction was monitored by thin layer chromatography (TLC) while it refluxed for 24 hours in an oil bath at 100° C. The mixture was then allowed to cool and the ethanol removed by rotary evaporation. The product was obtained by dissolving the reaction mixture in 100 mL hexanes and extracting with 1×50 mL 5% NaOH in 15:85 v/v water/methanol followed by 2×50 mL deionized water washes. The methanol-water layers were back-extracted with 50 mL hexanes. After drying over anhydrous MgSO4, the combined hexanes were evaporated off to give 41.0 g (108% yield) of a pale yellow oil. The product was purified by fractional distillation under vacuum with 31.96 g (84%) of spectroscopically pure product being collected at 145-153° C. (0.2 mm Hg). The structure and purity of the compound were corroborated by proton (1H) and carbon-13 NMR spectrometry.

reactant | 4-tert-octylphenol | 0.10 mol, 20.6 g | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)O | C14H22O
reactant | glycidyl 1,1,2,2-tetrafluoroethyl ether | 0.11 mol, 27.0 mL, 19.15 g | FC(C(F)F)(F)OCC1CO1 | C5H6F4O2
product | 1-(1,1,2,2-tetrafluoroethoxy)-3-(4tert-octylphenoxy)-2-propanol | 41.0 g, 108% yield | FC(C(F)F)(OCC(COC1=CC=C(C=C1)C(C)(C)CC(C)(C)C)O)F | C19H28F4O3
